US07094800B2
1h) (2S,5S)-5-(2-benzylamino-2-carboxyethyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
2.2 g of di-tert-butyl (2S,5S)-5-(2-benzylamino-2-carbamoylethyl)pyrrolidine-1,2-dicarboxylate were dissolved in 20 ml of ethanol and 5 ml of water. 1.2 g of solid sodium hydroxide were added thereto. The solution was then boiled under reflux for 36 h. For workup, it was cooled to room temperature and neutralized with acetic acid, and the ethanol was removed in vacuo. The residue was diluted with 20 ml of water and adjusted to a pH of 3 with acetic acid. The mixture was extracted 3 times with 30 ml of 5:1 ethyl acetate/butanol each time. The organic phases were combined and concentrated in vacuo. The residue was chromatographed on silica gel.

reactant | di-tert-butyl (2S,5S)-5-(2-benzylamino-2-carbamoylethyl)pyrrolidine-1,2-dicarboxylate | 2.2 g | C(C1=CC=CC=C1)NC(C[C@@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(N)=O | C24H37N3O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | (2S,5S)-5-(2-benzylamino-2-carboxyethyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@H]1CC(C(=O)O)NCC1=CC=CC=C1)C(=O)O | C20H28N2O6
